US08357703B2
6-((5-Methyl-3-propyl-isoxazol-4-yl)methoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 1e, 6-(5-methyl-3-propyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (145 mg, 0.50 mmol) was converted, using 4-aminotetrahydropyran instead of isopropylamine, to the title compound (35 mg, 19%) which was obtained as a white solid after purification by chromatography (silica, 0-6% methanol in dichloromethane) and after trituration with diisopropyl ether. MS: m/e=360.3 [M+H]+.

reactant | 6-(5-methyl-3-propyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.50 mmol, 145 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCC)=O | C15H18N2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-((5-Methyl-3-propyl-isoxazol-4-yl)methoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 35 mg, 19% | CC1=C(C(=NO1)CCC)COC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C19H25N3O4
